US06696473B2
B. Preparation of 3-{3-Benzyl-5-[3-methyl-4-methoxy-3H-benzothiazol-2-ylidene]-4-oxothiazolidin-2-ylideneamino}4-ethylaminobenzonitrile
To a suspension of the 4-methoxy2-methylthiobenzothiazole (0.60 g, 2.8 mmol) in anhydrous anisole (8 mL) was added methyl p-toluenesulfonate (1.4 mL, 9.0 mmol) and the suspension was heated at 130° C. for 3.5 h. After cooling to 20° C., MeCN (5 mL), 3-(3-benzyl-4-oxothiazolidin-2-ylideneamino)-4-ethylaminobenzonitrile (119 mg, 0.34 mmol) and TEA (2.0 mL, 14 mmol) were added. The suspension was stirred for 5 h at 80° C. After cooling to ambient temperature, yellow solids were collected by filtration, washed with MeCN and dried under high vacuum to afford the title compound (123 mg, 69%). 1H-NMR (CDCl3): δ 7.45-7.11 (9H, m), 6.88-6.85 (1H, m), 6.48 (1H, d), 5.17 (2H, s), 4.08 (3H, s), 3.92 (3H, s), 3.02-2.97 (2H, m), 1.02 (3H, t); MS(ESI): 528 (MH+).

reactant | 4-methoxy2-methylthiobenzothiazole | 2.8 mmol, 0.60 g | COC1=CC=CC2=C1N=C(S2)SC | C9H9NOS2
reactant | methyl p-toluenesulfonate | 9.0 mmol, 1.4 mL | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | MeCN | 5 mL | CC#N | C2H3N
reactant | 3-(3-benzyl-4-oxothiazolidin-2-ylideneamino)-4-ethylaminobenzonitrile | 0.34 mmol, 119 mg | C(C1=CC=CC=C1)N1C(SCC1=O)=NC=1C=C(C#N)C=CC1NCC | C19H18N4OS
solvent | anisole | 8 mL | C1(=CC=CC=C1)OC | C7H8O
product | 3-{3-Benzyl-5-[3-methyl-4-methoxy-3H-benzothiazol-2-ylidene]-4-oxothiazolidin-2-ylideneamino}4-ethylaminobenzonitrile | 123 mg, 69% | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1SC2=C(N1C)C(=CC=C2)OC)=NC=2C=C(C#N)C=CC2NCC | C28H25N5O2S2
